### PR TITLE
feat(GroupTheory): prove uniqueness of ℤᵐ⁰ automorphisms

### PR DESCRIPTION
**Pull request by vaca22**
Prove that every order-preserving multiplicative automorphism of ℤᵐ⁰ is the identity. This also gives a Unique instance for its automorphism type and a Subsingleton instance for order-preserving multiplicative normalizations from G to ℤᵐ⁰.

The proof transports an automorphism through WithZero.exp and WithZero.log to an additive automorphism of ℤ, then excludes negation by monotonicity.

------------

**AI disclosure**: this PR is primarily LLM-generated (Claude Code).

### CODE REVIEW

**Comment by grunweg** [comment]
Hello from triage! Can you comment on whether you used AI for this project? Thanks!
(Per mathlib's [AI policy](https://leanprover-community.github.io/contribute/#use-of-ai), this is not forbidden in principle, but its usage must be disclosed.)

**Comment by vaca22** [comment]
LLM-generated

File: Mathlib/GroupTheory/ArchimedeanDensely.lean [hunk 1]
```diff
@@ -87,6 +87,67 @@ instance : Unique (ℤ ≃+o ℤ) where
         simp
       simp [H] at h1
 
+namespace WithZero
+
+private noncomputable def logMapAddEquiv (e : ℤᵐ⁰ ≃*o ℤᵐ⁰) : ℤ ≃+ ℤ := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/ArchimedeanDensely.lean]: Does this really require order preserving?

Comment (vaca22) [reply Mathlib/GroupTheory/ArchimedeanDensely.lean]: You're right — the helper never used the order. Weakened to `ℤᵐ⁰ ≃* ℤᵐ⁰`; it's then just `AddEquiv.toMultiplicative.symm e.unzero`. The theorem still needs it: `MulEquiv.withZero` gives `ℤᵐ⁰ ≃* ℤᵐ⁰ ≃ (ℤ ≃+ ℤ)`, so there are exactly two automorphisms, and `map_le_map_iff` rules out negation. Could someone drop the `awaiting-author` label?

Comment (wwylele) [reply Mathlib/GroupTheory/ArchimedeanDensely.lean]: You can drop the awaiting-author label by typing `-awaiting-author`. See https://leanprover-community.github.io/contribute/index.html#lifecycle-of-a-pr for more tag management trick

**Comment by vaca22** [comment]
-awaiting-author

File: Mathlib/GroupTheory/ArchimedeanDensely.lean [hunk 2]
```diff
@@ -87,6 +87,61 @@ instance : Unique (ℤ ≃+o ℤ) where
...
+private lemma exp_logMapAddEquiv (e : ℤᵐ⁰ ≃* ℤᵐ⁰) (z : ℤ) :
+    exp (logMapAddEquiv e z) = e (exp z) := by
+  simp [logMapAddEquiv, exp_eq_coe_ofAdd]
+
+private lemma logMapAddEquiv_apply (e : ℤᵐ⁰ ≃* ℤᵐ⁰) (z : ℤ) :
+    logMapAddEquiv e z = log (e (exp z)) := by
+  rw [← exp_logMapAddEquiv, log_exp]
+
+/-- The only order-preserving multiplicative automorphism of `ℤᵐ⁰` is the identity. -/
+theorem orderMonoidIso_int_eq_refl (e : ℤᵐ⁰ ≃*o ℤᵐ⁰) :
```
Comment (tb65536) [inline Mathlib/GroupTheory/ArchimedeanDensely.lean:107]: Do you really need multiplicative, or is order-preserving enough?

**Comment by vaca22** [comment]
Order-preserving alone isn't enough: negation is order-reversing but still an automorphism of the underlying group, and I need to rule it out via the multiplicative structure (map_le_map_iff after transporting through withZero). So yes, multiplicative here.

**Comment by tb65536** [comment]
But negation is order-reserving, not order-preserving, right?

**Comment by wwylele** [comment]
Here is a family of order preserving automorphisms on `ℤᵐ⁰`
```lean4
import Mathlib

open scoped WithZero

def foo (a : ℤ) : ℤᵐ⁰ ≃o ℤᵐ⁰ where
  toFun x := x * WithZero.exp a
  invFun x := x * WithZero.exp (-a)
  left_inv x := by 
    simp only
    rw [mul_assoc, ← WithZero.exp_add, add_neg_cancel, WithZero.exp_zero, mul_one]
  right_inv x := by 
    simp only
    rw [mul_assoc, ← WithZero.exp_add, neg_add_cancel, WithZero.exp_zero, mul_one]
  map_rel_iff' := by simp
  ```

**Comment by vaca22** [comment]
You are right, my reasoning was wrong: negation is order-reversing, so order-preserving already excludes it. But multiplicative is still needed, as wwylele's example shows: x ↦ x * exp a is an order isomorphism of ℤᵐ⁰ for every a, so the order-preserving automorphisms form a copy of ℤ rather than a singleton, and only the multiplicative structure forces a = 0. I will add this remark to the docstring to justify the hypothesis. Thanks to you both.

File: Mathlib/GroupTheory/ArchimedeanDensely.lean (hunk 2 above)
Comment (vaca22) [reply Mathlib/GroupTheory/ArchimedeanDensely.lean:111]: Pushed the promised docstring remark on orderMonoidIso_int_eq_refl: neither hypothesis can be dropped. Order-preservation alone leaves the copy of ℤ given by x ↦ x * exp a (wwylele's example), and multiplicativity alone leaves inversion, which the order rules out. Builds clean.

File: Mathlib/GroupTheory/ArchimedeanDensely.lean [hunk 3]
```diff
@@ -87,6 +87,65 @@ instance : Unique (ℤ ≃+o ℤ) where
         simp
       simp [H] at h1
 
+namespace WithZero
+
+/-- A multiplicative automorphism of `ℤᵐ⁰` restricts to an additive automorphism of `ℤ`.
+The order plays no role here; it is only used in `orderMonoidIso_int_eq_refl`. -/
```
Comment (wwylele) [inline Mathlib/GroupTheory/ArchimedeanDensely.lean:93]:
```suggestion
/-- A multiplicative automorphism of `ℤᵐ⁰` restricts to an additive automorphism of `ℤ`. -/
```
I suspect AI generated this but it is not appropriate in the context. Order is not mentioned in the statement in the first place, so it doesn't make sense to even mention it.

**Comment by vaca22** [comment]
Applied wwylele's docstring suggestion in the latest commit. Ready for another look when you have time, thanks!
